US06291530B1
To a solution of 5-bromo-3-hydroxy-2(1H)-pyridinone (U.S. Pat. No. 3,471,506, 10.0 g, 52.6 mmol) in dioxane (30 mL) and H2O (15 mL) was added NaOH (2.1 g, 52.5 mol) dissolved in H2O (12.5 mL). To this mixture is added di-t-butyl-dicarbonate (12.5 g, 57.5 mmol), and the mixture is stirred at room temperature for 6 hours. At this time, the mixture is filtered, and the solid is washed with H2O (50 mL), and is dissolved in CH2Cl2 (100 mL). This organic solution is washed with brine, dried over MgSO4, and concentrated to yield 5-bromo-3-(t-butoxycarbonyloxy)-2(1H)pyridinone. A solution of 5-bromo-3-(t-butoxycarbonyloxy)-2(1H)-pyridinone (5.0 g, 17.2 mmol), AG2CO3 (4.74 g, 17.2 mmol) and α-bromo-2,6-difluorotoluene (3.56 g, 17.2 mmol) in toluene (60 mL) is heated to 42° for 24 hours in the dark. At this time the mixtut is filtered. The filtrate is concentrated in vacuo, and the residue is dissolved in EtOAc (150 mL) and washed with H2O (50 mL) and brine (50 mL), dried over MgSO4 and concentrates in vacuo. Chromatography (silica, 9:1 EtOAc/hexane) yields 5-bromo-3-(t-butoxycarbonyloxy)-2-(2,6-difluorobenzyloxy)-pyridine.

reactant | 5-bromo-3-hydroxy-2(1H)-pyridinone | BrC=1C=C(C(NC1)=O)O | C5H4BrNO2
reactant | NaOH | 52.5 mol, 2.1 g | [OH-].[Na+]
reactant | di-t-butyl-dicarbonate | 57.5 mmol, 12.5 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | dioxane | 30 mL | O1CCOCC1 | C4H8O2
solvent | H2O | 12.5 mL | O | H2O
solvent | H2O | 15 mL | O | H2O
product | 5-bromo-3-(t-butoxycarbonyloxy)-2(1H)pyridinone | BrC=1C=C(C(NC1)=O)OC(=O)OC(C)(C)C | C10H12BrNO4
